US09353083B2
3 g (11.4 mmol) of tert-butyl 3-hydroxy-3-o-tolylazetidine-1-carboxylate in 20 ml of N,N-dimethylformamide are added dropwise to a suspension of 1.4 g of sodium hydride at 60% in oil (34.2 mmol) in 14 ml of N,N-dimethylformamide, precooled to 0° C. After stirring for 20 minutes, 1 ml of bromomethylcyclopropane (11.4 mmol) is added and stirring is continued for 1 hour 30 minutes. The reaction medium is hydrolysed with saturated aqueous ammonium chloride solution and then extracted with a 1/1 heptane/ethyl acetate mixture. The organic phase is washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and concentrated under vacuum. 4 g of crude residue are obtained and are purified by chromatography on silica gel eluted with a heptane/ethyl acetate mixture, the polarity being increased from 95/5 to 80/20. 2.9 g (81%) of tert-butyl 3-cyclopropylmethoxy-3-o-tolylazetidine-1-carboxylate are obtained in the form of a yellow oil.

reactant | tert-butyl 3-hydroxy-3-o-tolylazetidine-1-carboxylate | 11.4 mmol, 3 g | OC1(CN(C1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)C | C15H21NO3
reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | bromomethylcyclopropane | 11.4 mmol, 1 ml | BrCC1CC1 | C4H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | tert-butyl 3-cyclopropylmethoxy-3-o-tolylazetidine-1-carboxylate | 2.9 g, 81% | C1(CC1)COC1(CN(C1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)C | C19H27NO3
